* C:\UserData\z003tf7t\Documents\GitHub\Synthesis-Projects\VCA_mix.asc
XU1 N012 N016 N010 N011 N013 V+ V- NC_01 NC_02 HALF13700
V1 N017 0 12
V2 N018 0 -12
R1 V+ N012 30k
R2 N016 N015 30k
R3 N016 0 508
V3 N015 0 SINE(0 5 200)
R5 N009 N011 19.6k
R7 N010 0 492
XU2 N013 N014 V+ V- N014 AD712
XU3 0 N003 V+ V- N004 AD712
R4 N003 N006 33k
R8 N004 N003 2k
R6 N013 0 30k
XU4 N026 N029 N024 N025 N027 V+ V- NC_03 NC_04 HALF13700
R9 V+ N026 30k
R10 N029 N028 30k
R11 N029 0 508
R12 Vc N025 20k
R13 N024 0 492
XU5 N027 N023 V+ V- N023 AD712
R14 N027 0 30k
V5 N028 0 SINE(0 3 340)
XU6 0 N019 V+ V- N020 AD712
R15 N019 N023 10k
R16 N020 N019 10k
R17 N019 N014 10k
XU7 0 N021 V+ V- N022 AD712
R18 N021 N020 20k
R19 N022 N021 10k
Q1 N009 N008 0 0 2N3906
Q2 V+ N004 N008 0 2N3904
R20 N008 V- 120k
R21 N003 N002 100k
R22 N001 N002 10k
R23 N002 V- 0.1
R24 N005 N004 10k
R25 Vc N005 330k
XU8 N007 N005 V+ V- Vc AD712
D1 N017 V+ 1N5819
D2 V- N018 1N5819
V7 N006 0 PWL(0 -5 0.08 5)
V4 Vref 0 3.3
R28 V+ N001 4.3k
R26 N007 Vref 330k
R27 0 N007 16k
.model D D
.lib C:\UserData\z003tf7t\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\UserData\z003tf7t\Documents\LTspiceXVII\lib\cmp\standard.bjt
.include LM13700.sub
.tran .1
* Exponential
* Linear
.lib ADI1.lib
.backanno
.end
