* C:\UserData\z003tf7t\Documents\GitHub\Synthesis-Projects\VCA_mix.asc
XU1 N013 N017 N010 N012 N014 V+ V- NC_01 NC_02 HALF13700
V1 N018 0 12
V2 N019 0 -12
R1 V+ N013 30k
R2 N017 N016 30k
R3 N017 0 508
V3 N016 0 SINE(0 5 200)
R5 N012 N011 19.6k
R7 N010 0 492
XU2 N014 N015 V+ V- N015 AD712
XU3 0 N004 V+ V- N005 AD712
R4 N004 N008 10k
R8 N005 N004 20k
R6 N014 0 30k
XU4 N031 N034 N029 N030 N032 V+ V- NC_03 NC_04 HALF13700
R9 V+ N031 30k
R10 N034 N033 30k
R11 N034 0 508
R12 N028 N030 0.1
R13 N029 0 492
XU5 N032 N026 V+ V- N026 AD712
R14 N032 0 30k
V5 N033 0 SINE(0 5 340)
XU6 0 N020 V+ V- N021 AD712
R15 N020 N026 10k
R16 N021 N020 10k
R17 N020 N015 10k
XU7 0 N022 V+ V- N023 AD712
R18 N022 N021 20k
R19 N023 N022 10k
Q1 N011 N009 0 0 2N3906
Q2 V+ N002 N009 0 2N3904
R20 N009 V- 120k
D1 N018 V+ 1N5819
D2 V- N019 1N5819
V7 N008 0 PWL(0 -5 0.02 -5 0.08 5) Rser=0
V4 Vref 0 3.3
R21 N004 N003 20k
R22 V+ N003 5k
R23 N003 V- 5k
XU9 0 N006 V+ V- Vc AD712
R24 N006 N005 10k
R25 Vc N006 10k
XU8 N007 N001 V+ V- N002 AD712
R26 N001 Vc 200k
R27 N002 N001 3k
R28 N007 Vref 10k
R29 0 N007 300
Q3 N028 N025 N027 0 2N3906
R30 0 N027 18k
XU10 0 N024 V+ V- N025 AD712
R31 N024 Vc 20k
R32 N025 N024 10k
R33 N024 Vref 6.8k
.model D D
.lib C:\UserData\z003tf7t\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\UserData\z003tf7t\Documents\LTspiceXVII\lib\cmp\standard.bjt
.include LM13700.sub
.tran .1
* Exponential
* Linear
.lib ADI1.lib
.backanno
.end
